### PR TITLE
[Merged by Bors] - chore: grind some proofs in the CHSH inequality

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Star/CHSH.lean [hunk 1]
```diff
@@ -147,18 +142,9 @@ Before proving Tsirelson's bound,
...
-  ring_nf
-  rw [mul_inv_cancel₀ (ne_of_gt (Real.sqrt_pos.2 (show (2 : ℝ) > 0 by simp)))]
-  convert congr_arg (· ^ 2) (@Real.sq_sqrt 2 (by simp)) using 1 <;>
-    (try simp only [← pow_mul]) <;> norm_num
-
 theorem sqrt_two_inv_mul_self : (√2)⁻¹ * (√2)⁻¹ = (2⁻¹ : ℝ) := by
-  rw [← mul_inv]
-  norm_num
+  have : √2 ^ 2 = 2 := by norm_num
+  grind
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/CHSH.lean]: is this really an improvement on before?

Comment (kim-em) [reply Mathlib/Algebra/Star/CHSH.lean]:
```suggestion
  rw [← mul_inv]
  norm_num
```

Comment (kim-em) [reply Mathlib/Algebra/Star/CHSH.lean]: I think it should be easy to each `grind` to introduce that `have` statement by itself, but I agree this change should wait for that.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
